US05208250
5-[(4-Hydroxy-3-methoxyphenyl)methylene]-3-methyl-2,4-imidazolidinedione
Prepared according to the procedure described in Example 93 using 4-hydroxy-3-methoxybenzaldehyde (3.2 g, 21 mmoles) and 3-methyl hydantoin (3.0 g, 21 mmoles). Recrystallization from ethyl acetate gave the pure product (0.7 g), mp 227°-228° C.

reactant | 4-hydroxy-3-methoxybenzaldehyde | 21 mmoles, 3.2 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | 3-methyl hydantoin | 21 mmoles, 3.0 g | CN1C(NCC1=O)=O | C4H6N2O2
product | 5-[(4-Hydroxy-3-methoxyphenyl)methylene]-3-methyl-2,4-imidazolidinedione | 0.7 g | OC1=C(C=C(C=C1)C=C1C(N(C(N1)=O)C)=O)OC | C12H12N2O4
